US07714010B2
N-(5-{2-[(Z)-Methoxyimino]-butyl}-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-benzamide
To a solution of N-[7,7-dimethyl-6-oxo-5-(2-oxo-butyl)-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide (80 mg) in MeOH (20 ml) is added O-methyl-hydroxylamine hydrochloride (20.5 mg; 0.25 mmol) and the mixture is stirred at RT for 18 h. After evaporation EtOAc is added and the organic phase is washed three times with saturated K2CO3 solution, dried over MgSO4 and evaporated again. The residue is purified by RP-MPLC eluted with MeCN/water to yield the desired compound (57 mg).

reactant | N-[7,7-dimethyl-6-oxo-5-(2-oxo-butyl)-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl]-benzamide | 80 mg | CC1(C(N(C=2C=C3C(=CC12)N=C(N3)NC(C3=CC=CC=C3)=O)CC(CC)=O)=O)C | C22H22N4O3
reactant | O-methyl-hydroxylamine hydrochloride | 0.25 mmol, 20.5 mg | Cl.CON
solvent | MeOH | 20 ml | CO | CH4O
product | N-(5-{2-[(Z)-Methoxyimino]-butyl}-7,7-dimethyl-6-oxo-3,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-benzamide | 57 mg | CO\N=C(/CN1C(C(C=2C=C3C(=CC12)NC(=N3)NC(C3=CC=CC=C3)=O)(C)C)=O)\CC | C23H25N5O3
